US06762315B1
In a first step, 4′-bromo-4-hydroxybiphenyl is reacted with an n-pentyl halide to give the corresponding 4′-bromo-4-n-pentoxybiphenyl. The 4′-bromo-4-n-pentoxybiphenyl is reacted in a second step with n-butyllithium at −78° C. to form, by transmetallation, 4′-lithium-4-n-pentoxybiphenyl which, in another step likewise at −78° C., is reacted with triisopropyl borate. Hydrolysis and work-up result in 4′-n-pentoxybiphenyl-4-boronic acid which is reacted in further steps with 4-iodobenzoic acid in a standard Suzuki coupling. The 4″-n-pentoxy[1,1′:4′,1″]-terphenyl-4-carboxylic acid is obtained as crude product which is purified by chromatography on silica gel.

reactant | triisopropyl borate | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | 4-iodobenzoic acid | IC1=CC=C(C(=O)O)C=C1 | C7H5IO2
reactant | 4′-n-pentoxybiphenyl-4-boronic acid | C(CCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)B(O)O | C17H21BO3
product | 4″-n-pentoxy[1,1′:4′,1″]-terphenyl-4-carboxylic acid | C(CCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C24H24O3
